US07687118B2
2.80 g (4.6 mmol) bis[6-chlorohexyl]2,2 bis(4-nitrobenzyl)malonate, 3.0 g (9.2 mmol) 4-pentoxyphenyl (2E)-3-{4-hydroxyphenyl}acrylate and 0.17 g (0.46 mmol) tetrabutylammonium iodide were dissolved in 30 ml 2-butanone. 2.53 g (18.3 mmol) potassium carbonate were added. The resulting suspension was heated at refluxing temperature and allowed to react for 48 h. After cooling to room temperature, the reaction mixture was partitioned between ethyl acetate and water. The organic phase was washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation to yield 3.6 g bis[6-{4-[(1E)-3-(4-pentyloxyphenoxy)-3-oxoprop-1-enyl]phenoxy}hexyl]2,2 bis(4-nitrobenzyl)malonate.

reactant | bis[6-chlorohexyl]2,2 bis(4-nitrobenzyl)malonate | 4.6 mmol, 2.80 g | ClCCCCCCOC(C(C(=O)OCCCCCCCl)(CC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=C(C=C1)[N+](=O)[O-])=O | C29H36Cl2N2O8
reactant | 4-pentoxyphenyl (2E)-3-{4-hydroxyphenyl}acrylate | 9.2 mmol, 3.0 g | OC1=CC=C(C=C1)/C=C/C(=O)OC1=CC=C(C=C1)OCCCCC | C20H22O4
reactant | potassium carbonate | 18.3 mmol, 2.53 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium iodide | 0.46 mmol, 0.17 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 2-butanone | 30 ml | CC(CC)=O | C4H8O
product | bis[6-{4-[(1E)-3-(4-pentyloxyphenoxy)-3-oxoprop-1-enyl]phenoxy}hexyl]2,2 bis(4-nitrobenzyl)malonate | 3.6 g | C(CCCC)OC1=CC=C(OC(/C=C/C2=CC=C(OCCCCCCOC(C(C(=O)OCCCCCCOC3=CC=C(C=C3)\C=C\C(=O)OC3=CC=C(C=C3)OCCCCC)(CC3=CC=C(C=C3)[N+](=O)[O-])CC3=CC=C(C=C3)[N+](=O)[O-])=O)C=C2)=O)C=C1 | C69H78N2O16
